US06541638B2
300 mg (1.17 mmol) (3S,5S)-Thioacetic acid S-[5-(piperidine-1-carbonyl)-pyrrolidin-3-yl] ester in 25 ml CH2Cl2 were treated with 398 mg (1.75 mmol, 1.5 eq) 2-naphthalene sulfonylchloride in the presence of 214 mg (1.75 mmol, 1.5 eq) DMAP at RT for 1.5 h. The solution was added to 1M KHSO4, the phases were separated and the inorganic extracted with CH2Cl2, the combined organic phases were washed with 1M KHSO4, water and brine, dried over Na2SO4 and were concentrated. Flash chromatography yielded 280 mg (54%) (3S,5S)-Thioacetic acid S-[1-(naphthalene-2-sulfonyl)-5-(piperidine-1-carbonyl)-pyrrolidin-3-yl] ester as white crystals.

reactant | (3S,5S)-Thioacetic acid S-[5-(piperidine-1-carbonyl)-pyrrolidin-3-yl] ester | 1.17 mmol, 300 mg | N1(CCCCC1)C(=O)[C@@H]1C[C@@H](CN1)SC(C)=O | C12H20N2O2S
reactant | 2-naphthalene sulfonylchloride | 1.75 mmol, 398 mg, 1.5 eq | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | KHSO4 | 1M | OS(=O)(=O)[O-].[K+]
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.75 mmol, 214 mg, 1.5 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | (3S,5S)-Thioacetic acid S-[1-(naphthalene-2-sulfonyl)-5-(piperidine-1-carbonyl)-pyrrolidin-3-yl] ester | 280 mg, 54% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1C[C@H](C[C@H]1C(=O)N1CCCCC1)SC(C)=O | C22H26N2O4S2
